US06887896B1
(2E)-3-(4-Bromo-8-sec-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-pent-2-enal (Compound A-154)
As described in General Procedure H-1, (2E)-3-(4-bromo-8-sec-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-pent-2-en-1-ol (Compound A-143, 411 mg, 0.94 mmol), tetrapropylammonium perruthenate (10 mg, 0.028 mmol) and 4-methylmorpholine N-oxide (274 mg, 2.34 mmol) were reacted in acetonitrile and dichloromethane to give the title compound as a yellow oil after purification by flash column chromatography (silica gel, 5% ethyl acetate in hexane).

reactant | (2E)-3-(4-bromo-8-sec-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-pent-2-en-1-ol | 0.94 mmol, 411 mg | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)CC)/C(=C(\CO)/F)/CC)OCC | C23H32BrFO2
reactant | 4-methylmorpholine N-oxide | 2.34 mmol, 274 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | tetrapropylammonium perruthenate | 0.028 mmol, 10 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | (2E)-3-(4-Bromo-8-sec-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-pent-2-enal | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)CC)/C(=C(\C=O)/F)/CC)OCC | C23H30BrFO2
